US06376491B1
To a solution of 1-(2,6-bis-methoxymethoxy-phenyl)-propan-1-one (770 mg) in methanol (12 ml) and 1,4-dioxane (12 ml) was added 4N-HCl (2 ml) at room temperature, then the mixture was heated to 50° C. and stirred for 2 hours. The mixture was diluted with ethyl acetate and washed with water (20 ml) and brine (20 ml). The separated organic layer was dried over anhydrous magnesium sulfate and evaporated. The residue was purified by silica gel column chromatography developed by hexane-ethyl acetate. 1-(2,6-dihydroxyphenyl)-propan-1-one was obtained as a yellow solid (398 mg). EI-MS: m/z 178 (M+); 1H-NMR (CDCl3): δ 1.03-1.08 (2H, m), 1.29-1.35 (2H, m), 2.21-2.31 (1H, m), 6.41 (2H, d, J=8.3 Hz), 7.23 (1H, t, J=8.3 Hz) 9.24 (2H, brs).

reactant | 1-(2,6-bis-methoxymethoxy-phenyl)-propan-1-one | 770 mg | COCOC1=C(C(=CC=C1)OCOC)C(CC)=O | C13H18O5
reactant | HCl | 2 ml | Cl | ClH
solvent | methanol | 12 ml | CO | CH4O
solvent | 1,4-dioxane | 12 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2,6-dihydroxyphenyl)-propan-1-one | OC1=C(C(=CC=C1)O)C(CC)=O | C9H10O3
